US05563163
To a suspension of 6.0 g (0.03 mol) of cuprous iodide in 100 ml of THF was added 25 ml of dimethyl sulfide, and the resulting yellow solution was cooled to -78° C. and treated dropwise with a solution of 23 ml (0.06 mol) of a 3.0M solution of phenyl magnesium bromide in diethyl ether. The resulting pale yellow-orange solution was stirred at -78° C. under nitrogen for one hour and then treated with 3.02 g (0.03mol) of 2-cyclohexenone in 10 ml of THF. The resulting mixture was allowed to warm to 0° C. over a two hour period, recooled to -78° C. treated with 15 ml of hexamethylphosphoramide, stirred for thirty minutes, treated with 8.0 g (0.09 mol) of methyl cyanoformate and allowed to warm to ambient temperature overnight. The reaction mixture was poured into 100 ml of 2N hydrochloric acid, and the organic phase was separated and the aqueous phase back-extracted with MDC. The combined organic extracts were taken to dryness in vacuo and the residue triturated with saturated ammonium chloride, then with water, then with brine and taken to dryness once again to give 3.2 g of methyl 2-phenylcyclohexan-6-one carboxylate as an oil.

reactant | dimethyl sulfide | 25 ml | CSC | C2H6S
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 2-cyclohexenone | 0.03mol, 3.02 g | C1(C=CCCC1)=O | C6H8O
reactant | methyl cyanoformate | 0.09 mol, 8.0 g | C(#N)C(=O)OC | C3H3NO2
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexamethylphosphoramide | 15 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | methyl 2-phenylcyclohexan-6-one carboxylate | 3.2 g | C1(=CC=CC=C1)C1C(C(CCC1)=O)C(=O)OC | C14H16O3
